US05478838
Acetyl chloride (62 g) was dropwise added to a solution (1 l) of cumylamine (90 g) and a 48% aqueous solution of sodium hydroxide (70 ml) in toluene under ice-cooling and the mixture was stirred at room temperature for 5 hours. After completion of the reaction, the mixture was neutralized with a saturated aqueous solution of potassium carbonate and extracted with ethyl acetate. The extract was washed with water and dried. The solvent was distilled away under reduced pressure to give 102.3 g of N-(1-methyl-1-phenylethyl)acetamide.

reactant | Acetyl chloride | 62 g | C(C)(=O)Cl | C2H3ClO
reactant | cumylamine | 1 l, 90 g | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1-methyl-1-phenylethyl)acetamide | 102.3 g | CC(C)(C1=CC=CC=C1)NC(C)=O | C11H15NO
